US06599917B1
A mixture of 5.7 g of 2,6-dibromopyridine, 2.5 g of 3-hydroxypyrrolidine, 3.6 ml of 1,8-diazbicyclo[5.4.0]-7-undecene (DBU) and 20 ml of tetrahydrofuran was heated under stirring for 11 hours in an oil bath kept at 70° C. The mixture was partitioned between ethyl acetate-water, and the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography using 10-30% ethyl acetate/hexane, to give 5.9 g of 2-bromo-6-(3-hydroxypyrrolidine-1-yl)pyridine.

reactant | 2,6-dibromopyridine | 5.7 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 3-hydroxypyrrolidine | 2.5 g | OC1CNCC1 | C4H9NO
reactant | 7-undecene | CCCCCCC=CCCC | C11H22
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-bromo-6-(3-hydroxypyrrolidine-1-yl)pyridine | 5.9 g | BrC1=NC(=CC=C1)N1CC(CC1)O | C9H11BrN2O
